US09254251B2
Preparation of 5-adamantan-1-yl-2,4-dihydroxy-N-(3-hydroxy-5-methoxybenzyl)benzamide
5-Adamantan-1-yl-N-(3,5-dimethoxybenzyl)-2,4-dihydroxybenzamide (0.27 g) is dissolved in dichloromethane (3 mL). After adding BBr3 (1.7 mL in CH2Cl2 1.0 M solution, 3 eq.) and stirring at room temperature for 2 hours, methanol (5 mL) is added and extraction is carried out using water and dichloromethane. The organic layer is dried with anhydrous magnesium sulfate, filtered, concentrated under reduced pressure and separated by column chromatography to obtain 0.045 g of the target compound as white solid.

reactant | 5-Adamantan-1-yl-N-(3,5-dimethoxybenzyl)-2,4-dihydroxybenzamide | 0.27 g | C12(CC3CC(CC(C1)C3)C2)C=2C(=CC(=C(C(=O)NCC3=CC(=CC(=C3)OC)OC)C2)O)O | C26H31NO5
reactant | BBr3 | 1.0 M, 1.7 mL, 3 eq. | B(Br)(Br)Br | BBr3
reactant | methanol | 5 mL | CO | CH4O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 5-adamantan-1-yl-2,4-dihydroxy-N-(3-hydroxy-5-methoxybenzyl)benzamide | 0.045 g | C12(CC3CC(CC(C1)C3)C2)C=2C(=CC(=C(C(=O)NCC3=CC(=CC(=C3)OC)O)C2)O)O | C25H29NO5
